US08013186B2
1-Fluoro-4-iodobenzene (30 g, 135 mmol) and 2-bromo2,2-difluoroacetic acid ethyl ester (29 g, 142.9 mmol) were dissolved in DMF (100 ml) and Cu (21.5 g, 71.2 mmol) was added. The reaction mixture was heated at 90° C. for 18 h. Ethyl acetate (100 ml) was added and the reaction mixture was quenched with a solution of potassium dihydrogen phosphate (20 g) in water (200 ml). The resultant solution was stirred for 30 min, filtered and was washed with ethyl acetate. The organic layer was separated, washed with water and brine. The organic layer was dried over MgSO4, filtered, and concentrated to give 2,2-difluoro-2-(4-fluorophenyl)acetic acid ethyl ester (26.5 g) as a yellow liquid.

reactant | 1-Fluoro-4-iodobenzene | 135 mmol, 30 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 2-bromo2,2-difluoroacetic acid ethyl ester | 142.9 mmol, 29 g | C(C)OC(C(F)(F)Br)=O | C4H5BrF2O2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2,2-difluoro-2-(4-fluorophenyl)acetic acid ethyl ester | 26.5 g | C(C)OC(C(C1=CC=C(C=C1)F)(F)F)=O | C10H9F3O2
